US05532235
5,6,7,8-Tetrahydro-5-oxo-4H-furo[3,2-b]azepine-3-carboxylic acid
A mixture of 1.0 g of (E)-4,5,6,7-tetrahydro-4-[[[(4-methylphenyl)sulfonyl]oxy]imino]-3-benzofurancarboxylic acid, 5.9 g of potassium acetate, 23 ml of ethanol and 39 ml of water is heated at reflux for 48 hours. The reaction mixture is concentrated in vacuo, 80 ml of methylene chloride added and the separated organic layer washed with water, brine and dried with Na2SO4. The organic layer is concentrated in vacuo to a solid which is purified by chromatography on a preparative silica gel plate by elution with 0.5% acetic acid in ethyl acetate. The eluted band is washed with 1% acetic acid in ethyl acetate. The organic layer is dried with Na2SO4 and concentrated in vacuo to give 200 mg of off-white solid which is crystallized from ethyl acetate-hexane to give 165 mg of the desired product as a white solid.

reactant | (E)-4,5,6,7-tetrahydro-4-[[[(4-methylphenyl)sulfonyl]oxy]imino]-3-benzofurancarboxylic acid | 1.0 g | CC1=CC=C(C=C1)S(=O)(=O)O\N=C\1/CCCC2=C1C(=CO2)C(=O)O | C16H15NO6S
reactant | potassium acetate | 5.9 g | C(C)(=O)[O-].[K+]
reactant | ethanol | 23 ml | C(C)O | C2H6O
solvent | water | 39 ml | O | H2O
product | 5,6,7,8-Tetrahydro-5-oxo-4H-furo[3,2-b]azepine-3-carboxylic acid | 200 mg | O=C1CCCC2=C(N1)C(=CO2)C(=O)O | C9H9NO4
